US06169086A
1) Preparation of 1-[3-Fluoro-5-(trifluoromethyl)phenyl]-piperazine
To 60 ml of n-butanol were added 5.0 g of 3-fluoro-5-(trifluoromethyl)aniline and 5.0 g of bis(2-chloroethyl)amine hydrochloride, and the mixture was heated under reflux for 47 hours. To the reaction mixture was added 3.85 g of potassium carbonate, followed by heating under reflux for 24 hours. After cooling to room temperature, the solvent was removed by evaporation. The residue was dissolved in an 1N sodium hydroxide aqueous solution and extracted with chloroform-methanol (19:1 by volume). The extract was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was removed by evaporation, and the residue was subjected to silica gel column chromatography using a 9:1 (by volume) mixed solvent of chloroform and methanol as a developing solvent. The fraction containing the desired compound was concentrated to yield 2.1 g of the title compound.

reactant | 3-fluoro-5-(trifluoromethyl)aniline | 5.0 g | FC=1C=C(N)C=C(C1)C(F)(F)F | C7H5F4N
reactant | bis(2-chloroethyl)amine hydrochloride | 5.0 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 3.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 1-[3-Fluoro-5-(trifluoromethyl)phenyl]-piperazine | 2.1 g | FC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
